US09238647B2
Step E: (1R)-1-(3-Methyl-1,2,4-oxadiazol-5-yl)ethyl 4-(4-fluorophenyl)-2-isopropyl-1,3-benzoxazole-6-carboxylate
To a solution of (1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethyl 6-amino-4′-fluoro-5-hydroxybiphenyl-3-carboxylate (10.0 mg, 28.0 μmol), and isobutyric acid (4.94 mg, 56.0 μmol) and solid support triphenylphosphine (75% by weight; 29.4 mg, 84.0 μmol) in acetonitrile (0.28 mL) was added trichloroacetonitrile (5.63 μL, 56.0 μmol). The mixture was heated in a microwave reactor for 10 min at 150° C. The mixture was cooled to ambient temperature, filtered and concentrated. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.05% ammonium hydroxide) gave the title compound (3.3 mg). HRMS [M+1] found=409.1683.

reactant | (1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethyl 6-amino-4′-fluoro-5-hydroxybiphenyl-3-carboxylate | 28.0 μmol, 10.0 mg | NC1=C(C=C(C=C1C1=CC=C(C=C1)F)C(=O)O[C@H](C)C1=NC(=NO1)C)O | C18H16FN3O4
reactant | isobutyric acid | 56.0 μmol, 4.94 mg | C(C(C)C)(=O)O | C4H8O2
reactant | triphenylphosphine | 84.0 μmol, 29.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trichloroacetonitrile | 56.0 μmol, 5.63 μL | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | acetonitrile | 0.28 mL | C(C)#N | C2H3N
product | (1R)-1-(3-Methyl-1,2,4-oxadiazol-5-yl)ethyl 4-(4-fluorophenyl)-2-isopropyl-1,3-benzoxazole-6-carboxylate | 3.3 mg | FC1=CC=C(C=C1)C1=CC(=CC2=C1N=C(O2)C(C)C)C(=O)O[C@H](C)C2=NC(=NO2)C | C22H20FN3O4
